US08420629B2
Step 3. 3-(cyanomethylene)-1-methylcyclobutanecarbonitrile
To a solution of 1.0 M of potassium tert-butoxide in tetrahydrofuran (52.9 mL) at 0° C. was added dropwise a solution of diethyl cyanomethylphosphonate (8.98 mL, 0.0555 mol) in tetrahydrofuran (90 mL, 1 mol). The reaction was warmed to rt and then cooled at 0° C. again. To the reaction mixture was added a solution of 1-methyl-3-oxocyclobutanecarbonitrile (5.50 g, 0.0504 mol) in tetrahydrofuran (40 mL, 0.6 mol). The reaction was allowed to warm up to rt and stirred at rt overnight. After quenching with water, the mixture was extracted with ether. The combined organic layers were washed with water, brine, dried and evaporated to dryness. The crude mixture was purified on silica gel, eluting with 0 to 60% EtOAc in hexane, to give the desired product (3.12 g, 46.84%). LCMS calculated for C8H9N2(M+H)+: 133.1. Found: 133.1.

reactant | potassium tert-butoxide | 1.0 M | CC(C)([O-])C.[K+]
reactant | diethyl cyanomethylphosphonate | 0.0555 mol, 8.98 mL | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 1-methyl-3-oxocyclobutanecarbonitrile | 0.0504 mol, 5.50 g | CC1(CC(C1)=O)C#N | C6H7NO
solvent | tetrahydrofuran | 52.9 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.6 mol, 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1 mol, 90 mL | O1CCCC1 | C4H8O
product | 3-(cyanomethylene)-1-methylcyclobutanecarbonitrile | 3.12 g, 46.84% | C(#N)C=C1CC(C1)(C#N)C | C8H8N2
